US06130349
Preparation of dimethyl 2-(1-thiophene-2-yl-allyl)-malonate using ligands IV and VIII
Cycloheptyl ligand IV (10.2 mg, 0.030 mmol) and Mo(CO)3 (C2H5CN)3 (6.9 mg, 0.020 mmol) were dissolved in 1.0 ml of THF at rt. The reaction mixture was heated at 60° C. for 1 h. After cooling to rt., 1.0 ml of THF solution of sodium dimethylmalonate enolate, prepared from dimethyl malonate (58.0 mg, 0.44 mmol) and sodium hydride (10.2 mg, 0.40 mmol) in tetrahydrofuran, and methyl 1-(2-thienyl)-2-propenyl carbonate were added successively. The reaction mixture was heated at 65° C. for 4.5 h. The reaction mixture was poured into water and extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, and the solvent was removed under reduced pressure. The ratio of dimethyl 2-(1-thiophene-2-yl-allyl)-malonate and linear compound was determined by 1H NMR (400 MHz) to be 16.0/1. The residue was chromatographed on silica (1/7 ethyl acetate/petroleum ether, Rf=0.3) to yield the mixture of branched and linear compound. (40.3 mg, 78%) [α]D -31.1° (c 1.35, CHCl3); 92% e.e. for major isomer.

reactant | dimethyl malonate | 0.44 mmol, 58.0 mg | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium hydride | 0.40 mmol, 10.2 mg | [H-].[Na+]
reactant | methyl 1-(2-thienyl)-2-propenyl carbonate | C(OC)(OC(C=C)C=1SC=CC1)=O | C9H10O3S
reactant | water | O | H2O
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | dimethyl 2-(1-thiophene-2-yl-allyl)-malonate | S1C(=CC=C1)C(C=C)C(C(=O)OC)C(=O)OC | C12H14O4S
